US06656917B1
(2S,3S)-2,3-Epoxy-4-hydroxybutanoic acid sodium salt.
A modification of the general procedure of Manchand, et. al. (Manchand, et al., 1988) is employed. A solution of methyl (2S,3S)-4-acetoxy-2,3-epoxybutanoate (81.8 g, 465 mmol) in methanol (450 mL) is cooled in an ice bath to 5° C. The solution is treated with solid sodium hydroxide at such a rate that the temperature remained less than 15° C. This mixture is stirred at 5° C. for 3 hours and diluted with dichloromethane (200 mL). The mixture is stirred at room temperature for 30 minutes. The solid is collected by filtration and washed with dichloromethane (200 mL). The resulting filter cake is dried in vacuo at room temperature to yield the title compound as a solid (58.8 g, 90% theoretical yield).

reactant | methyl (2S,3S)-4-acetoxy-2,3-epoxybutanoate | 465 mmol, 81.8 g | C(C)(=O)OC[C@H]1[C@@H](C(=O)OC)O1 | C7H10O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 450 mL | CO | CH4O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (2S,3S)-2,3-Epoxy-4-hydroxybutanoic acid sodium salt | 58.8 g, 90% | [Na+].O1[C@H](C(=O)[O-])[C@@H]1CO | InChI=1S/C4H6O4.Na/c5-1-2-3(8-2)4(6)7;/h2-3,5H,1H2,(H,6,7);/q;+1/p-1/t2-,3-;/m0./s1
